US08202862B2
N′-Hydroxy-1-methoxycyclopropanecarboximidamide
100 mg (1.03 mmol) of 1-methoxycyclopropanecarboxamide [L. N. Owen, H. M. Babatunde Somade, J. Chem. Soc. 1947, 1030-1034] in tetrahydrofuran (22.7 ml) was admixed with 1.51 g (6.08 mmol) of methyl N-(triethylammoniumsulphonyl)carbamate (Burgess reagent) and then stirred at 60° C. for 1.5 h. The reaction mixture was admixed with dichloromethane and water, and the organic phase was dried over magnesium sulphate, filtered and concentrated under reduced pressure (637 mg of crude product). 100 mg of the crude product were initially charged in ethanol (1.2 ml), admixed with 107 mg (1.55 mmol) of hydroxylammonium chloride and 0.17 ml (125 mg, 1.24 mg) of triethylamine and then stirred under reflux overnight. The reaction solution was concentrated under reduced pressure, and the residue was admixed with saturated aqueous sodium chloride solution and then extracted with dichloromethane. The organic phase was dried over magnesium sulphate, filtered and concentrated under reduced pressure. The residue was subsequently stirred with ethyl acetate, the insoluble salts were filtered off and the filtrate was concentrated under reduced pressure. Yield: 32.3 mg (23% of theory)

reactant | 1-methoxycyclopropanecarboxamide | 1.03 mmol, 100 mg | COC1(CC1)C(=O)N | C5H9NO2
reactant | methyl N-(triethylammoniumsulphonyl)carbamate | 6.08 mmol, 1.51 g | C(C)[N+](S(=O)(=O)NC(OC)=O)(CC)CC
reactant | dichloromethane | ClCCl | CH2Cl2
reactant | hydroxylammonium chloride | 1.55 mmol, 107 mg | [Cl-].O[NH3+]
solvent | tetrahydrofuran | 22.7 ml | O1CCCC1 | C4H8O
solvent | triethylamine | 0.17 ml, 125 mg | C(C)N(CC)CC | C6H15N
solvent | water | O | H2O
product | N′-Hydroxy-1-methoxycyclopropanecarboximidamide | ON=C(N)C1(CC1)OC | C5H10N2O2
